datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC(C)(C)[P:10](C1=CC=CC=C1)C(C)(C)C.CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[C:21]2[C:22](=[O:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([P+:10](C2=CC=CC=C2)(C(C)(C)C)C(C)(C)C)[C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1 10=20;20,21=21,22;22,23=23"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1.O=C(O)[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][CH:11]=[CH:10]2)[CH:63]=[CH:64]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]2[CH:11]=[NH+:12][C:62]3=[C:61]2[CH:72]=[C:73](C(=O)O)[CH:64]=[CH:63]3)[C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1 10,11=10,20;12=11,12"
F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1.[CH-:10]([C:61]#[N:62])[C:71]#[N:72]>>F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([C:20]([CH:10]([C:61]#[N:62])[C:71]#[N:72])([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1 10=20
"C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[Si:11](C)(Cl)[H:10]>>C[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([H:10])([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[Si+:11](C)Cl 10,11=10,20"
"CC1=CC(C)=C([N+]2=C([C:22](/[CH:21]=[CH:20]/[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)=[O:23])N(C)C=C2)C(C)=C1.CCN1CC[N:14]2CCN(CC)[C:62]3=[CH:61][N:10]=[CH:11][C:12]1=[C:13]23>>CCN1CC[N+:14]2=[C:13]3[C:12]1=[CH:11][N:10]([CH:20]([CH:21]=[C:22](C1=[N+](C4=C(C)C=C(C)C=C4C)C=CN1C)[O-:23])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:61]=[C:62]3N(CC)CC2 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"C1=C[C:31]2=[C:32](C=C1)[CH:33]=[CH:34][C:35]1=[C:36](C=CC=C1)[CH+:20]2.CC[O:72][C:61](/[CH:10]=[C:11](/C1=CC=CC=C1)[O-:12])=[O:62]>>CC[O:72][C:61]([CH:10]([C:11](C1=CC=CC=C1)=[O:12])[CH:20]1[C:31]2=[C:32](C=CC=C2)[CH:33]=[CH:34][C:35]2=[C:36]1C=CC=C2)=[O:62] 10,11=10,20;12=11,12"
CC1=CC(C)=C(C(C)C[CH+:20][C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1.C[C:64]1=[CH:63][CH:62]=[C:61]([NH2:10])[CH:72]=[CH:73]1>>CC1=CC(C)=C(C(C)C[CH:20]([NH2+:10][C:61]2=[CH:62][CH:63]=[C:64](C)[CH:73]=[CH:72]2)[C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1 10=20
C[CH+:20][C:31]12C3C4C5C1[Fe:32]45321678C2C1C6C7C28.C[N:10](C)C>>C[N+:10](C)(C)[CH:20](C)[C:31]12C3C4C5C1[Fe:32]45321678C2C1C6C7C28 10=20
"C1=CC=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])C=C1.C[Si:73](C)(C)[CH2:72][C:11](=[CH2:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1>>C[Si:73](C)(C)[CH2:72][C+:11]([CH2:10][CH:20]([CH:21]=[C:22](C1=CC=CC=C1)[O-:23])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1 10,11=10,20;20,21=21,22;22,23=23"
"CC[O:62]/[C:11](=[CH:10]/[N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)[O-:12].N#C[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12>>CC[O:62][C:11]([CH:10]([CH:20]1[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33](C#N)[C:34]2=[N:35]O[N+:42]([O-])=[C:41]12)[N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1(C)C[C:71](=[O:72])[C:10](=[I:11]C2=CC=CC=C2)[C:91](=[O:92])C1.C[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1>>CC1(C)C[C:71](=[O:72])[C:10]([I+:11]C2=CC=CC=C2)([CH:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:91](=[O:92])C1 10,11=10,20"
"C[C:11](C)([H:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1.Cl[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1>>C[C+:11](C)[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1.Cl[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C:20]([H:10])([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1 10,11=10,20"
CO[C:63]1=[C:62]([N:61]2[C-:10]=[N+:71](C)[CH:73]=[CH:72]2)[C:67](OC)=[CH:66][CH:65]=[CH:64]1.[CH+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1>>CO[C:63]1=[C:62]([N:61]2[C:10]([CH:20]([C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[CH:41]=[CH:42][C:53]3=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]3)=[N+:71](C)[CH:73]=[CH:72]2)[C:67](OC)=[CH:66][CH:65]=[CH:64]1 10=20
"N#C[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[C:22](C2=CC=CC=C2)=[O:23])[CH:36]=[CH:35]1.[H:10][Si:11]([CH3:62])([CH3:72])[C:82]1=[CH:83][CH:84]=[C:85]([Cl:86])[CH:93]=[CH:94]1>>N#C[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[CH:21]=[C:22](C2=CC=CC=C2)[O-:23])[CH:36]=[CH:35]1.[Si+:11]([CH3:62])([CH3:72])[C:82]1=[CH:83][CH:84]=[C:85]([Cl:86])[CH:93]=[CH:94]1 10,11=10,20;20,21=21,22;22,23=23"
